US05994391
Alkylation of 4-bromophenol with 3-methoxybenzyl chloride according to the procedure described in J. Chem. Soc, 2431 (1958) gave 4-bromo-2-(3'-methoxybenzyl)phenol. This material was converted to compound 75, mp 97-101.5° C., and compound 76, mp 102-106° C., by the procedure similar to that in Example 18 method B.

reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 3-methoxybenzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | 4-bromo-2-(3'-methoxybenzyl)phenol | BrC1=CC(=C(C=C1)O)CC1=CC(=CC=C1)OC | C14H13BrO2
